US06096741
To a solution of 47.06 g (0.2 mol) of methyl 3-benzyloxyiminovalerate in 150 ml of chlorbenzene, 24.41 g (0.22 mol) of selenium dioxide was added and the mixture was stirred for 8 hours at 120° C. After adding 200 ml of water and filtering through Celite, the filtrate was extracted three times with 200 ml of diethylether. After washing with water and a saturated aqueous sodium chloride followed by drying over with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure to obtain a residue, which was purified by a column chromatography on a silica gel (n-hexanelethyl acetate) to obtain 31.15 g (yield 62%) of methyl 3-benzyloxyimino-2-oxovalerate as a colorless oil.

reactant | methyl 3-benzyloxyiminovalerate | 0.2 mol, 47.06 g | C(C1=CC=CC=C1)ON=C(CC(=O)OC)CC | C13H17NO3
reactant | selenium dioxide | 0.22 mol, 24.41 g | [Se](=O)=O | O2Se
reactant | water | 200 ml | O | H2O
solvent | chlorbenzene | 150 ml | ClC1=CC=CC=C1 | C6H5Cl
product | methyl 3-benzyloxyimino-2-oxovalerate | 31.15 g, yield 62% | C(C1=CC=CC=C1)ON=C(C(C(=O)OC)=O)CC | C13H15NO4
